Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
PE
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
that time showed non-bleeding
esophageal ulcers which were thought to be the source and
evidence of extrinsic compression in the gastric fundus from
pancreatic mass. He required about 6 blood transfusions
throughout that admission. His Eliquis has since been on hold. 
He
reports his last bloody BM was about 10 days ago. 

In the ED, initial VS were: 97.7 81 167/98 16 97% RA 
Exam notable for: guaic positive stool
ECG: NA
Labs showed: Hgb 11.0, discharge from ___ Hgb ~8, around ~12 on
initial presentation at ___ 
___ showed: CTAPE: PE in descending pulmonary artery 
branches
Consults: ___ for IVC filter placement
Patient received: heparin gtt which was subsequently stopped as
pt had guaiac positive stool on rectal exam, no actual episodes
of  melena or hematochezia. 
Transfer VS were: 98.1 75 157/77 16 99% RA 
 
On arrival to the floor, patient endorses the story above. He
reports since his last hospitalization he has recovered well
without any further episodes of bloody stools. 

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI
 
Past Medical History:
HTN
HLD
pAfib
Pancreatic adenocarcinoma, followed at ___ by Dr. ___ 
___ vulgaris
 
Social History:
___
Family History:
Father: deceased htn, pneumonia ___
Mother: deceased at ___ COPD
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 97.8
PO 178 / 80
L Lying 74 18 98 Ra 
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants
EXTREMITIES: no cyanosis, clubbing, or edema
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM:
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants
EXTREMITIES: no cyanosis, clubbing, or edema
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
ADMISSION LABS:
___ 08:30PM BLOOD WBC-9.0 RBC-3.77* Hgb-11.0* Hct-35.8* 
MCV-95 MCH-29.2 MCHC-30.7* RDW-16.5* RDWSD-56.2* Plt ___
___ 08:30PM BLOOD ___ PTT-103.6* ___
___ 08:30PM BLOOD Glucose-129* UreaN-10 Creat-1.3* Na-143 
K-3.9 Cl-104 HCO3-25 AnGap-14
___ 08:30PM BLOOD cTropnT-<0.01 proBNP-666
___ 07:06AM BLOOD Calcium-8.8 Phos-3.3 Mg-1.9

DISCHARGE LABS:
___ 12:46AM BLOOD WBC-11.0* RBC-3.46* Hgb-10.4* Hct-32.3* 
MCV-93 MCH-30.1 MCHC-32.2 RDW-16.2* RDWSD-55.2* Plt ___
___ 01:49PM BLOOD Glucose-94 UreaN-16 Creat-1.3* Na-140 
K-3.9 Cl-101 HCO3-26 AnGap-13
___ 01:49PM BLOOD Calcium-9.0 Phos-3.4 Mg-1.8
___ 01:49PM BLOOD LMWH-0.___ with PMH of afib (previously on Eliquis, on amio, metop), 
HTN, HLD, and pancreatic cancer (currently undergoing FOLFOX at 
___, s/p 19 completed cycles) presenting from OSH with PE. 
Patient started on heparin gtt, and transitioned to lovenox. CBC 
remained stable ~10 and he was stable for discharge.

ACUTE ISSUES:
===============
#Pulmonary embolism:
New right sided PEs noted on imaging. Likely in setting 
ofunderlying malignancy, previously anticogulated on apixiban, 
though now recently stopped due to recent large GI bleed. No 
evidence of right heart strain, trop/BNP negative. LENIs 
negative for DVT. Patient remained hemodynamically stable 
without chest pain, dyspnea, or O2 requirement. Discussed 
extensively of risk and benefits about starting anticoagulation 
given his high risk of bleed and together ultimately decided to 
start anticoagulation. He was monitored for 48 hours on heparin 
gtt and was transitioned to ___ and monitored for additional 48 
hours with stable CBC. Hematology was also consulted to assist 
with decision making. Patient's oncologist Dr. ___ was also 
made aware. Anti Xa level on day of discharge was 0.80. 

CHRONIC ISSUES:
===============

#HTN: Continued metoprolol. Patient was hypertensive during this 
hospitalization. We restarted amlodipine 5mg daily. Please 
continue to monitor. 

#Aflutter: Continue amiodarone and metoprolol. On 
anticoagulation as above. 

#HLD: Continue pravastatin 

TRANSITIONAL ISSUES
====================
[]Please recheck CBC as outpatient
[]Please check Creatinine as outpatient to ensure that it is not 
rising while on Lovenox. Discharge creatinine was 1.3. 
[]If patient bleeds, would recommend IVC filter
[]Given re-initiation of amlodipine during this hospitalization, 
please continue to monitor blood pressure. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amiodarone 200 mg PO MWF 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Pravastatin 10 mg PO QPM 
4. Omeprazole 40 mg PO BID 
5. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Enoxaparin Sodium 80 mg SC Q12H 
RX *enoxaparin 80 mg/0.8 mL 1 twice a day Disp #*14 Syringe 
Refills:*0 
3.  Amiodarone 200 mg PO MWF  
4.  Metoprolol Succinate XL 25 mg PO DAILY  
5.  Multivitamins 1 TAB PO DAILY  
6.  Omeprazole 40 mg PO BID  
7.  Pravastatin 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Pulmonary Embolism

SECONDARY:
Pancreatic Cancer
Atrial flutter

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you.

Why you were admitted?
- You were admitted because were found to have a pulmonary 
embolism, or a blood clot in the vessels of your lung.

What we did for you?
- You were treated with blood thinning medications to help 
stabilize the blood clots. The blood clots will eventually go 
away with treatment.
- We monitored you closely and your blood counts remained 
stable.

What should you do when you leave the hospital?
- We started you on a new blood thinning medication, that you 
inject into your skin called Lovenox. Please talk with your 
oncologist about whether you should continue taking this 
medication, or switch back to the blood thinning medication that 
you were taking before. 
- Please make sure your primary care doctor checks your blood 
work again in a week to make sure that your kidney function is 
still normal. 

We wish you the best,
Your ___ team.
 
Followup Instructions:
___